US08242104B2
5-Carbamoyl-4-[2-(2-isopropyl-2H[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester was stirred in TFA (1 mL) and DCM (2 mL) for 2 h. The reaction mixture was concentrated in vacuo and the residue triturated with diethyl ether to give a solid. The solid was then treated with tetra allylammonium carbonate (polymer bound) (1.84 g, 4.68 mmol) in methanol and DCM for 30 min. The resin was filtered off and the filtrate concentrated in vacuo to give 4-[2-(2-Isopropyl-2H[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid amide (0.40 g, 82%). 1H NMR 300 MHz (CDCl3) δ: 8.52-8.46 (1H, m), 7.88 (1H, s), 7.71-7.69 (1H, m), 7.08 (1H, dd, J=8.30, 1.82 Hz), 6.98 (1H, d, J=1.79 Hz), 6.01-6.00 (1H, m), 4.52-4.47 (4H, m), 3.75 (2H, s), 3.15 (2H, t, J=5.82 Hz), 2.51 (2H, m), 1.60 (6H, d, J=6.62 Hz).

reactant | 5-Carbamoyl-4-[2-(2-isopropyl-2H[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=C(C1)C(N)=O)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C27H33N7O4
reactant | tetra allylammonium carbonate | 4.68 mmol, 1.84 g | C([O-])([O-])=O.C(C=C)[N+](CC=C)(CC=C)CC=C.C(C=C)[N+](CC=C)(CC=C)CC=C
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-Isopropyl-2H[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid amide | 0.40 g, 82% | C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C3=C(CNCC3)C(=O)N | C22H25N7O2
